US08431563B2
A 100 mL round-bottomed flask was charged with 1,1,1,3,3,3-hexafluoro-2-(4-((3R)-3-methyl-1-piperazinyl)phenyl)-2-propanol (0.950 g, 2.78 mmol), 5 mL of CH2Cl2, 2-thiophenesulfonyl chloride (0.583 g, 3.19 mmol, Sigma-Aldrich, St. Louis, Mo.), and triethylamine (0.580 mL, 4.16 mmol). After 1 h at room temperature, 0.010 g of DMAP was added. After an additional 30 min, the mixture was concentrated and purified via column chromatography (80 g of silica, 0 to 40% EtOAc in hexanes) to give 1,1,1,3,3,3-hexafluoro-2-(4-((3R)-3-methyl-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol (0.425 g) as an off-white solid. 1H NMR (400 MHz, CDCl3) δ=7.70-7.46 (m, 4H), 7.12 (dd, J=3.7, 4.9 Hz, 1H), 6.94 (d, J=9.0 Hz, 2H), 4.30 (m, 1H), 3.83 (td, J=3.0, 13.1 Hz, 1H), 3.66-3.57 (m, 1H), 3.54-3.38 (m, 2H), 3.31 (s, 1H), 3.07 (dd, J=3.5, 12.3 Hz, 1H), 2.95 (dt, J=3.6, 11.6 Hz, 1H), 1.30 (d, J=6.7 Hz, 3H). m/z (ESI, +ve ion) 488.7 (M+H)+. GK-GKRP EC50 (NADPH-coupled)=2.36 μM; GK-GKRP EC50 (LC MS/MS)=2.57 μM.

reactant | 1,1,1,3,3,3-hexafluoro-2-(4-((3R)-3-methyl-1-piperazinyl)phenyl)-2-propanol | 2.78 mmol, 0.950 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1C[C@H](NCC1)C)(F)F | C14H16F6N2O
reactant | 2-thiophenesulfonyl chloride | 3.19 mmol, 0.583 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | triethylamine | 4.16 mmol, 0.580 mL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.010 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1,1,1,3,3,3-hexafluoro-2-(4-((3R)-3-methyl-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol | 0.425 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C=1SC=CC1)C)(F)F | C18H18F6N2O3S2
